US06656937B2
3-[(2-hydroxymethyl phenylamino)methyl]piperidine-2,6-dione
5 ml of a 1 M solution of tetrabutyl ammonium fluoride trihydrate in tetrahydrofuran were added to a solution of 0.20 g of the product from step 1 in 5 ml tetrahydrofuran. It was stirred for 3 h at 20° C., evaporated in vacuo and the residue was purified by flash chromatography on silica gel with ethyl acetate as eluent. 0.12 g (85% of theoretical) of the title compound were obtained in the form of a yellowish oil.

reactant | tetrabutyl ammonium fluoride trihydrate | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[(2-hydroxymethyl phenylamino)methyl]piperidine-2,6-dione | OCC1=C(C=CC=C1)NCC1C(NC(CC1)=O)=O | C13H16N2O3
